US05559106
8-Bromo-1-[1-(diethoxyphosphoryl)ethyl]-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one
A mixture of 1-[1-(diethoxyphosphoryl)ethyl]-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one (811 mg, 1.94 mmol), silver sulfate (605 mg, 1.94 mmol) and bromine (100 μl, 1.94 mmol) in 5 ml of conc. sulfuric acid was stirred overnight at room temperature. The mixture was filtered and the filtrate was added dropwise to 100 ml of ice/water. The resulting precipitate was isolated by filtration, washed with water and dried to give 514 mg (53%) of the title compound; m.p.>200° C., decomp. 1H-NMR (DMSO-d6): δ 1.12 (t, 3H), 1.18 (t, 3H), 1.74 (dd, 3H), 3.95 (quint, 2H), 4.07 (quint, 2H), 4.78 (dq, 1H), 7.81 (s, 1H), 8.59 (s, 1H), 12.35 (s, 1H).

reactant | 1-[1-(diethoxyphosphoryl)ethyl]-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 1.94 mmol, 811 mg | C(C)OP(=O)(OCC)C(C)C1=NN=C2N1C1=CC=C(C=C1NC2=O)C(F)(F)F | C16H18F3N4O4P
reactant | bromine | 1.94 mmol, 100 μl | BrBr | Br2
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
catalyst | silver sulfate | 1.94 mmol, 605 mg | S(=O)(=O)([O-])[O-].[Ag+2]
product | 8-Bromo-1-[1-(diethoxyphosphoryl)ethyl]-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 514 mg, 53% | BrC1=C(C=C2NC(C=3N(C2=C1)C(=NN3)C(C)P(=O)(OCC)OCC)=O)C(F)(F)F | C16H17BrF3N4O4P
